US07160901B2
e. 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5-(N-acetyl-N-phenylsulphonyl-amino)-2-indolinone
8.0 g (24.2 mmol) of 1-acetyl-5-phenylsulphonylamino-2-indolinone are dissolved in 150 ml of acetic anhydride and after the addition of 20 ml (88.1 mmol) of triethyl orthobenzoate refluxed for 6 hours. The solvent is distilled off, the residue is triturated with ether, suction filtered and dried.

reactant | 1-acetyl-5-phenylsulphonylamino-2-indolinone | 24.2 mmol, 8.0 g | C(C)(=O)N1C(CC2=CC(=CC=C12)NS(=O)(=O)C1=CC=CC=C1)=O | C16H14N2O4S
reactant | triethyl orthobenzoate | 88.1 mmol, 20 ml | CCOC(C1=CC=CC=C1)(OCC)OCC | C13H20O3
reactant | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5-(N-acetyl-N-phenylsulphonyl-amino)-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)N(S(=O)(=O)C1=CC=CC=C1)C(C)=O)=C(C1=CC=CC=C1)OCC)=O | C27H24N2O6S
